US08008307B2
Step e: 6-{[(1S,3S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-(1-naphthyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine
To a solution of (1S,3S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-cyclopentanol (111.0 mg, 0.0004817 mol) (azeotroped with toluene) in DMF (3.6 mL) at 0° C. under an atmosphere of nitrogen was added sodium hydride (24.1 mg, 0.000602 mol). The mixture was stirred for 15 min. To this cold solution was added a solution of 6-chloro-8-(1-naphthyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (163 mg, 0.000401 mol) in DMF (1.8 mL). The flask was rinsed with DMF (1.0 mL)) and this was added to the reaction as well. The resulting mixture was stirred for 20 h. The reaction mixture was quenched with water and the mixture was extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4, filtered and collected in vacuo. The residue was purified by flash chromatography (10 to 40% EtOAc/hexanes) to obtain 156.9 mg (70%) of the title compound as a white solid.

reactant | (1S,3S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-cyclopentanol | 0.0004817 mol, 111.0 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H](CC1)O | C12H26O2Si
reactant | sodium hydride | 0.000602 mol, 24.1 mg | [H-].[Na+]
reactant | 6-chloro-8-(1-naphthyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 0.000401 mol, 163 mg | ClC1=C2N=C(N(C2=NC=N1)C1OCCCC1)C1=CC=CC2=CC=CC=C12 | C20H17ClN4O
solvent | DMF | 3.6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 6-{[(1S,3S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-8-(1-naphthyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 156.9 mg, 70% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H](CC1)OC1=C2N=C(N(C2=NC=N1)C1OCCCC1)C1=CC=CC2=CC=CC=C12 | C32H42N4O3Si
